US06184225B2
A mixture of 7-(2-acetoxyethoxy)-4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline (133 mg, 0.27 mmol) and 10% palladium-on-charcoal catalyst (50 mg) in ethyl acetate (8 ml) was stirred under 1 atmosphere of hydrogen at ambient temperature for 18 hours. The catalyst was removed by filtration through diatomaceous earth and most of the solvent removed by evaporation and hexane added to the residue. The resulting precipitated product was collected by filtration and dried to give 7-(2-acetoxyethoxy)-4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxyquinazoline (16 mg, 15%).

reactant | 7-(2-acetoxyethoxy)-4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline | 0.27 mmol, 133 mg | C(C)(=O)OCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C)F)OC | C27H26FN3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-acetoxyethoxy)-4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxyquinazoline | 16 mg, 15% | C(C)(=O)OCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)O)C)F)OC | C20H20FN3O5
